US07186729B2
Step 1: 4-(4-Chloro-phenyl)-4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester
To a chilled solution of 4-(4-chloro-phenyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester (700 mg, 1.98 mmol) in 6 ml ether was added dropwise 2 ml lithium aluminium hydride 1M solution in ether. The reaction was stirred at 0° C. for 3 hours, then water (100 ml) was slowly added. The resulting gel was filtered and the aqueous filtrate was extracted three times with ether. The combined organic layers were dried with magnesium sulfate and concentrated under vacuum. Recovered oil was purified by silica gel chromatography, eluting with hexane-ethyl acetate (6:4) to give the title compound (297 mg, 46%).

reactant | 4-(4-chloro-phenyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 1.98 mmol, 700 mg | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)Cl | C18H24ClNO4
reactant | lithium aluminium hydride | 1M, 2 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 100 ml | O | H2O
solvent | ether | 6 ml | CCOCC | C4H10O
product | 4-(4-Chloro-phenyl)-4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 297 mg, 46% | C(C)(C)(C)OC(=O)N1CCC(CC1)(CO)C1=CC=C(C=C1)Cl | C17H24ClNO3
